US07238813B2
Resin-Bound 5-Chloro-2-nitroaniline
Amino-(4-methoxyphenyl)-methylpolystyrene (loading 1.69 mmol/g, 7.00 g, 11.8 mmol) was soaked in DMSO in a peptide vessel for 30 min. The solvent was then drained. DIEA (11.3 mL, 65.1 mmol) in DMSO (88 mL) was added to the resin, followed by 4-chloro-2-fluoronitrobenzene (10.4 g, 59.2 mmol). The mixture was shaken at room temperature for 19 h, at which point it was drained. The resin was washed with DMSO (3×), EtOH (3×), DMF (3×), MeOH (3×) and DCM (3×). It was then dried under vacuum overnight. A small sample (approx. 10 mg) was treated with 23:2:75 (v/v/v) TFA/H2O/DCM (0.5 mL) for ca. 1 h. The solution containing the released material was concentrated and analyzed with LC/MS. UV (254 nm): 97% @ 5.65 min. MS: m/e 171 (M−1).

reactant | DIEA | 65.1 mmol, 11.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-2-fluoronitrobenzene | 59.2 mmol, 10.4 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DMSO | 88 mL | CS(=O)C | C2H6OS
product | 5-Chloro-2-nitroaniline | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
